US05134128
3-[1-Acetoxy-5-(2-napthyl)hexyl]-5-trimethylsilylfuran
A mixture of 3-[1-hydroxy-5-(2-napthyl)hexyl]-5-trimethylsilylfuran (120 mg, 0.3 mmol) and acetic anhydride (66 mg, 651 mmol) in pyridine (1.3 ml) was stirred at room temperature overnight. After removal of the solvent, the residue was purified by preparative TLC (20×20 cm, 500μ silica gel plate; developed with 30% ethyl ether/hexane) yielding the title compound as a yellow oil.

reactant | 3-[1-hydroxy-5-(2-napthyl)hexyl]-5-trimethylsilylfuran | 0.3 mmol, 120 mg | OC(CCCC(C)C1=CC2=CC=CC=C2C=C1)C1=COC(=C1)[Si](C)(C)C | C23H30O2Si
reactant | acetic anhydride | 651 mmol, 66 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1.3 ml | N1=CC=CC=C1 | C5H5N
product | 3-[1-Acetoxy-5-(2-napthyl)hexyl]-5-trimethylsilylfuran | C(C)(=O)OC(CCCC(C)C1=CC2=CC=CC=C2C=C1)C1=COC(=C1)[Si](C)(C)C | C25H32O3Si
